US04550166
3-Methyl-8-(3-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A 1.0 g portion of 2-hydrazino-3,3'-bipyridine was dissolved in 5 ml of triethyl orthoacetate and heated at 130° C. for 1.5 hours. The volatiles were removed at reduced pressure and the residue purified by chromatography on silica gel, eluting with ethyl acetate:methanol (9:2). The resulting solid was recrystallized from methylene chloride-hexane, giving the desired product as a tan powder, mp 112.5°-115° C.

reactant | 2-hydrazino-3,3'-bipyridine | N(N)C1=NC=CC=C1C=1C=NC=CC1 | C10H10N4
reactant | triethyl orthoacetate | 5 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 3-Methyl-8-(3-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | CC1=NN=C2N1C=CC=C2C=2C=NC=CC2 | C12H10N4
